US04738972
1-(2-Phenylethyl)-1,2,3,4-tetrahydroquinoline
To phenylacetaldehyde (6.0 g, 0.050 mol), 1,2,3,4-tetrahydroquinoline (13 g, 0.1 mol) and acetic acid (0.5 ml) in methanol (50 ml) was added NaBH3CN (1.18 g). After stirring for 1 hour, the mixture was poured into 800 ml 1N HCl and extracted 3×100 ml ether. The combined organic layers were washed 1×100 ml 1N HCl and 2×100 ml H2O, dried (K2CO3) and concentrated to 100 ml. The concentrate was perfused with excess HCl gas to form an oily hydrochloride salt of title product. The solvent was decanted and the residual washed 2×50 ml ether. The washed salt was distributed between excess 5% K2CO3 and ether, and the organic layer separated, dried (K2CO3) and stripped to yield title product as an oil, 6.5 g.

reactant | phenylacetaldehyde | 0.050 mol, 6.0 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | 1,2,3,4-tetrahydroquinoline | 0.1 mol, 13 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | NaBH3CN | 1.18 g | [BH3-]C#N.[Na+]
reactant | HCl | 1N, 800 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Phenylethyl)-1,2,3,4-tetrahydroquinoline | C1(=CC=CC=C1)CCN1CCCC2=CC=CC=C12 | C17H19N
